US05356882
5-Formyl-2,4-dimethoxypyrimidine
A solution of 1.6M n-Buli in hexane (48 ml, 73.6 mmol) was added over 5 min. to a stirred suspension of 5-bromo-2,4-dimethoxypyrimidine (16 g; 72.9 mmol) in dry Et2O (240 ml) at -70° C. under an atmosphere of dry N2. Dry ethyl formate (28 g: 377 mmol) was added and the orange solution stirred at -70° C. for 1 h then allowed to warm slowly to ambient temperature. Water (400 ml) was added and the aqueous layer separated and extracted with Et2O (3×200 ml). The ether layer was combined with the extracts and dried over MgSO4, filtered and evaporated. The residue was purified by column chromatography by preloading in SiO2 and eluting with EtOAc-hexane (3:7, v/v). Product fractions were combined and evaporated to give fine white needles, yield 6.89 g, (56%). Mass spectrum m/z 169 (M+H)+Analysis, found: C, 50:1;H,4.5;N,16.9%;C7H8N2O3 requires C,50.00; H,4.79; N, 16.66%.

reactant | hexane | 73.6 mmol, 48 ml | CCCCCC | C6H14
reactant | 5-bromo-2,4-dimethoxypyrimidine | 72.9 mmol, 16 g | BrC=1C(=NC(=NC1)OC)OC | C6H7BrN2O2
reactant | ethyl formate | 377 mmol, 28 g | C(=O)OCC | C3H6O2
reactant | Water | 400 ml | O | H2O
solvent | Et2O | 240 ml | CCOCC | C4H10O
product | 5-Formyl-2,4-dimethoxypyrimidine | C(=O)C=1C(=NC(=NC1)OC)OC | C7H8N2O3
